US04871735
(b) 2-[N-Methyl-N-((2-methyl-naphth-1-yl)-methyl)-amino-prop-3-yl]-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one hydrochloride
To a solution of 1.3 g (3 mmol) of 2-[N-methyl-N-(2-methyl-naphth-1-yl)-amino-prop-3-yl]-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one in 50 ml of tetrahydrofuran, 4.5 ml of a 1 molar borane-tetrahydrofuran complex in tetrahydrofuran are added and 0.55 ml (4.5 mmol) of boron trifluoride-diethyl etherate complex are added dropwise with stirring at ambient temperature. After 3 hours' reaction time, 5 ml of 6 molar hydrochloric acid are added dropwise, the mixture is refluxed for 0.5 hours and then the solvent is evaporated off in vacuo. The aqueous portion remaining is made alkaline with 2 molar sodium hydroxide solution and extracted with methylene chloride. The organic phase is washed with water, dried over sodium sulphate, evaporated down in vacuo and purified over a silica gel column (0.063-0.2 mm) with methylene chloride and then with increasing amounts of ethanol (up to 5%). The hydrochloride is precipitated from a solution in acetone with ethereal hydrochloric acid and is then recrystallised from acetone.

reactant | 2-[N-methyl-N-(2-methyl-naphth-1-yl)-amino-prop-3-yl]-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one | 3 mmol, 1.3 g | CN(C1=C(C=CC2=CC=CC=C12)C)C(CC)N1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C26H30N2O3
reactant | hydrochloric acid | 6 molar, 5 ml | Cl | ClH
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[N-Methyl-N-((2-methyl-naphth-1-yl)-methyl)-amino-prop-3-yl]-6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinolin-1-one hydrochloride | Cl.CN(CC1=C(C=CC2=CC=CC=C12)C)C(CC)N1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C27H32N2O3.ClH/c1-6-26(28(3)17-23-18(2)11-12-19-9-7-8-10-21(19)23)29-14-13-20-15-24(31-4)25(32-5)16-22(20)27(29)30;/h7-12,15-16,26H,6,13-14,17H2,1-5H3;1H
